// Generated for: spectre
// Generated on: Mar 12 16:15:51 2023
// Design library name: combCell45nm
// Design cell name: NOR2X1
// Design view name: schematic
simulator lang=spectre
global 0
parameters skew_b=1e-09 VDD=1.2 corners=tt slew_b=1e-10 slew_a=1e-10 \
    cap=1e-13
include "/cadence/FOUNDRY/analog/45nm/gpdk045/../models/spectre/gpdk045.scs" section=tt

// Library name: combCell45nm
// Cell name: NOR2X1
// View name: schematic
PM1 (Y B net17 VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
PM0 (net17 A VDD VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
NM1 (Y A VSS VSS) g45n1svt w=(200n) l=45n nf=1 as=28f ad=28f ps=680n \
        pd=680n nrd=700m nrs=700m sa=140n sb=140n sd=160n sca=169.02145 \
        scb=0.10920 scc=0.02100 m=(1)
NM0 (Y B VSS VSS) g45n1svt w=(200n) l=45n nf=1 as=28f ad=28f ps=680n \
        pd=680n nrd=700m nrs=700m sa=140n sb=140n sd=160n sca=169.02145 \
        scb=0.10920 scc=0.02100 m=(1)
C0 (Y VSS) capacitor c=cap
include "/home/poojabe/Desktop/PhD_Research/src_project/ml_lib_char/mlLibGen/gates/NOR2X1/simulation/schematic/netlist/_graphical_stimuli_1.scs"
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=25.0 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=21e-9 start=0 step=0.1e-9 write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub currents=all
